************************************************************************
* auCdl Netlist:
* 
* Library Name:  SAMPLE
* Top Cell Name: 3_8_DECODER
* View Name:     schematic
* Netlisted on:  Jul  5 04:48:05 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: SAMPLE
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MM0 Y C VDD VDD P W=0.42 L=0.18 m=1
MM1 Y B VDD VDD P W=0.42 L=0.18 m=1
MM4 Y A VDD VDD P W=0.42 L=0.18 m=1
MM2 Y A net25 VSS N W=0.42 L=0.18 m=1
MM3 net25 B net24 VSS N W=0.42 L=0.18 m=1
MM5 net24 C VSS VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: SAMPLE
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
MM1 out vin vss vss N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: SAMPLE
* Cell Name:    3_8_DECODER
* View Name:    schematic
************************************************************************

.SUBCKT 3_8_DECODER A B C VDD VSS Y0 Y1 Y2 Y3 Y4 Y5 Y6 Y7
*.PININFO A:I B:I C:I Y0:O Y1:O Y2:O Y3:O Y4:O Y5:O Y6:O Y7:O VDD:B VSS:B
XI21 A B C VDD VSS net4 / NAND
XI20 A net13 net14 VDD VSS net9 / NAND
XI19 A net13 C VDD VSS net10 / NAND
XI18 A B net14 VDD VSS net11 / NAND
XI17 net12 B C VDD VSS net8 / NAND
XI16 net12 B net14 VDD VSS net7 / NAND
XI15 net12 net13 C VDD VSS net6 / NAND
XI14 net12 net13 net14 VDD VSS net5 / NAND
XI13 net14 VDD C VSS / INVERTER
XI12 net13 VDD B VSS / INVERTER
XI11 net12 VDD A VSS / INVERTER
XI29 Y6 VDD net11 VSS / INVERTER
XI28 Y5 VDD net10 VSS / INVERTER
XI27 Y4 VDD net9 VSS / INVERTER
XI26 Y3 VDD net8 VSS / INVERTER
XI25 Y2 VDD net7 VSS / INVERTER
XI24 Y1 VDD net6 VSS / INVERTER
XI23 Y0 VDD net5 VSS / INVERTER
XI30 Y7 VDD net4 VSS / INVERTER
.ENDS

