************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: ColumnMux
* View Name:     schematic
* Netlisted on:  Jul  4 21:01:12 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    CMOS_INV
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_INV out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM1 out vin vss vss N W=0.42 L=0.18 m=1
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    ColumnMux
* View Name:    schematic
************************************************************************

.SUBCKT ColumnMux BL BLB SA_BL SA_BLB VDD VSS WD_BL WD_BLB YSR
*.PININFO VDD:I VSS:I YSR:I SA_BL:O SA_BLB:O BL:B BLB:B WD_BL:B WD_BLB:B
MM3 BLB YSR WD_BLB VSS N W=0.42 L=0.18 m=1
MM2 WD_BL YSR BL VSS N W=0.42 L=0.18 m=1
MM1 SA_BLB YSR_BAR BLB VSS N W=0.42 L=0.18 m=1
MM0 BL YSR_BAR SA_BL VSS N W=0.42 L=0.18 m=1
MM7 BLB YSR_BAR WD_BLB VDD P W=0.42 L=0.18 m=1
MM6 WD_BL YSR_BAR BL VDD P W=0.42 L=0.18 m=1
MM5 SA_BLB YSR BLB VDD P W=0.42 L=0.18 m=1
MM4 BL YSR SA_BL VDD P W=0.42 L=0.18 m=1
XI0 YSR_BAR VDD YSR VSS / CMOS_INV
.ENDS

