************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: Decoder_3x8
* View Name:     schematic
* Netlisted on:  Jun 23 19:51:28 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    NAND_GATE_3INP
* View Name:    schematic
************************************************************************

.SUBCKT NAND_GATE_3INP A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MM4 Y A VDD VDD P W=0.42 L=0.18 m=1
MM1 Y B VDD VDD P W=0.42 L=0.18 m=1
MM0 Y C VDD VDD P W=0.42 L=0.18 m=1
MM5 net9 C VSS VSS N W=0.42 L=0.18 m=1
MM3 net7 B net9 VSS N W=0.42 L=0.18 m=1
MM2 Y A net7 VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    CMOS_INV
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_INV out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM1 out vin vss vss N W=0.42 L=0.18 m=1
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    Decoder_3x8
* View Name:    schematic
************************************************************************

.SUBCKT Decoder_3x8 A B C VDD VSS Y0 Y1 Y2 Y3 Y4 Y5 Y6 Y7
*.PININFO A:I B:I C:I Y0:O Y1:O Y2:O Y3:O Y4:O Y5:O Y6:O Y7:O VDD:B VSS:B
XI14 net11 net10 net3 VDD VSS net9 / NAND_GATE_3INP
XI15 net11 net10 C VDD VSS net8 / NAND_GATE_3INP
XI16 net11 B net3 VDD VSS net6 / NAND_GATE_3INP
XI17 net11 B C VDD VSS net7 / NAND_GATE_3INP
XI18 A B net3 VDD VSS net5 / NAND_GATE_3INP
XI19 A net10 C VDD VSS net2 / NAND_GATE_3INP
XI20 A net10 net3 VDD VSS net4 / NAND_GATE_3INP
XI21 A B C VDD VSS net1 / NAND_GATE_3INP
XI30 Y7 VDD net1 VSS / CMOS_INV
XI23 Y0 VDD net9 VSS / CMOS_INV
XI24 Y1 VDD net8 VSS / CMOS_INV
XI25 Y2 VDD net6 VSS / CMOS_INV
XI26 Y3 VDD net7 VSS / CMOS_INV
XI27 Y4 VDD net4 VSS / CMOS_INV
XI28 Y5 VDD net2 VSS / CMOS_INV
XI29 Y6 VDD net5 VSS / CMOS_INV
XI11 net11 VDD A VSS / CMOS_INV
XI12 net10 VDD B VSS / CMOS_INV
XI13 net3 VDD C VSS / CMOS_INV
.ENDS

