************************************************************************
* auCdl Netlist:
* 
* Library Name:  SAMPLE
* Top Cell Name: INVERTER
* View Name:     schematic
* Netlisted on:  Jun 21 17:01:01 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: SAMPLE
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
MM1 out vin vss vss N W=0.42 L=0.18 m=1
.ENDS

