************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: NAND_GATE_3INP
* View Name:     schematic
* Netlisted on:  Jun 22 23:34:44 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    NAND_GATE_3INP
* View Name:    schematic
************************************************************************

.SUBCKT NAND_GATE_3INP A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MM4 Y A VDD VDD P W=0.42 L=0.18 m=1
MM1 Y B VDD VDD P W=0.42 L=0.18 m=1
MM0 Y C VDD VDD P W=0.42 L=0.18 m=1
MM5 net9 C VSS VSS N W=0.42 L=0.18 m=1
MM3 net7 B net9 VSS N W=0.42 L=0.18 m=1
MM2 Y A net7 VSS N W=0.42 L=0.18 m=1
.ENDS

