************************************************************************
* auCdl Netlist:
* 
* Library Name:  padring
* Top Cell Name: Padring
* View Name:     schematic
* Netlisted on:  Jul 17 15:42:21 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: padring
* Cell Name:    Padring
* View Name:    schematic
************************************************************************

.SUBCKT Padring PAD0 PAD1 PAD2 PAD3 PAD4 PAD5 PAD6 PAD7 PAD8 PAD9 PAD10 PAD11 
+ PAD12 PAD13 PAD14 PAD15 PAD16 PAD17 PAD18 PAD19 PAD20 PAD21 PAD22 PADR0 
+ PADR1 PADR2 PADR3 PADR4 PADR5 PADR6 PADR7 PADR8 PADR9 PADR10 PADR11 PADR12 
+ PADR13 PADR14 PADR15 PADR16 PADR17 PADR18 PADR19 PADR20 PADR21 PADR22
*.PININFO PAD0:B PAD1:B PAD2:B PAD3:B PAD4:B PAD5:B PAD6:B PAD7:B PAD8:B 
*.PININFO PAD9:B PAD10:B PAD11:B PAD12:B PAD13:B PAD14:B PAD15:B PAD16:B 
*.PININFO PAD17:B PAD18:B PAD19:B PAD20:B PAD21:B PAD22:B PADR0:B PADR1:B 
*.PININFO PADR2:B PADR3:B PADR4:B PADR5:B PADR6:B PADR7:B PADR8:B PADR9:B 
*.PININFO PADR10:B PADR11:B PADR12:B PADR13:B PADR14:B PADR15:B PADR16:B 
*.PININFO PADR17:B PADR18:B PADR19:B PADR20:B PADR21:B PADR22:B
XI31 net6 net5 net4 net3 net2 net1 / pc3d00
XI22 PAD0 PADR0 VDD VSS VDDO VSSO / pc3d00
XI21 PAD1 PADR1 VDD VSS VDDO VSSO / pc3d00
XI20 PAD2 PADR2 VDD VSS VDDO VSSO / pc3d00
XI19 PAD3 PADR3 VDD VSS VDDO VSSO / pc3d00
XI18 PAD4 PADR4 VDD VSS VDDO VSSO / pc3d00
XI17 PAD5 PADR5 VDD VSS VDDO VSSO / pc3d00
XI16 PAD6 PADR6 VDD VSS VDDO VSSO / pc3d00
XI15 PAD7 PADR7 VDD VSS VDDO VSSO / pc3d00
XI14 PAD8 PADR8 VDD VSS VDDO VSSO / pc3d00
XI13 PAD9 PADR9 VDD VSS VDDO VSSO / pc3d00
XI12 PAD10 PADR10 VDD VSS VDDO VSSO / pc3d00
XI11 PAD11 PADR11 VDD VSS VDDO VSSO / pc3d00
XI10 PAD12 PADR12 VDD VSS VDDO VSSO / pc3d00
XI9 PAD13 PADR13 VDD VSS VDDO VSSO / pc3d00
XI8 PAD14 PADR14 VDD VSS VDDO VSSO / pc3d00
XI7 PAD22 PADR22 VSS VDD VDDO VSSO / pc3d00
XI6 PAD21 PADR21 VSS VDD VDDO VSSO / pc3d00
XI5 PAD20 PADR20 VSS VDD VDDO VSSO / pc3d00
XI4 PAD19 PADR19 VSS VDD VDDO VSSO / pc3d00
XI3 PAD18 PADR18 VSS VDD VDDO VSSO / pc3d00
XI2 PAD17 PADR17 VSS VDD VDDO VSSO / pc3d00
XI1 PAD16 PADR16 VSS VDD VDDO VSSO / pc3d00
XI0 PAD15 PADR15 VSS VDD VDDO VSSO / pc3d00
XI29 VSSO VDD VSS VDDO / pv0a
XI23 VSSO VDD VSS VDDO / pv0a
XI30 VDD VSS VDDO VSSO / pv0i
XI24 VDD VSS VDDO VSSO / pv0i
XI27 VDD VDDO VSS VSSO / pvda
XI25 VDD VDDO VSS VSSO / pvda
XI28 VSS VDD VDDO VSSO / pvdi
XI26 VSS VDD VDDO VSSO / pvdi
.ENDS

