************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: Precharge_Circuit
* View Name:     schematic
* Netlisted on:  Jul  8 21:44:53 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    CMOS_INV
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_INV out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM1 out vin vss vss N W=0.42 L=0.18 m=1
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    Precharge_Circuit
* View Name:    schematic
************************************************************************

.SUBCKT Precharge_Circuit BL BLB PRE VDD VSS
*.PININFO VSS:I BL:B BLB:B PRE:B VDD:B
MM2 BL net1 BLB VDD P W=0.42 L=0.18 m=1
MM1 VDD net1 BL VDD P W=0.42 L=0.18 m=1
MM0 BLB net1 VDD VDD P W=0.42 L=0.18 m=1
XI0 net1 VDD PRE VSS / CMOS_INV
.ENDS

